### PR TITLE
feat: add answer(sorry) to all Erdos problems stated as questions.

### PR DESCRIPTION
**Pull request by callesonne**
See #29.

This fixes this for all open Erdos problems, and also for the solved ones up to 442.

Also fixes a potential misformalization / issue with 244, where previously it was assumed that the set had some density (which does not seem clear from the problem statement).

Also, when creating this branch I by accident also had some work in converting (a few) docstrings into Latex. I have not bothered to remove this, as this is a (very minor) good thing to do anyways.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/126.lean [hunk 1]
```diff
@@ -35,10 +35,8 @@ $\prod_{a\neq b\in A}(a + b)$ has at least $f(n)$ distinct prime factors.
 Is it true that $\frac{f(n)}{\log n} \to\infty$?
 -/
 @[category research open, AMS 11]
-theorem erdos_126
-    (f : ℕ → ℕ)
-    (hf : IsMaximalAddFactorsCard f) :
-    Tendsto (fun n => f n / Real.log n) atTop atTop :=
+theorem erdos_126 (f : ℕ → ℕ) (hf : IsMaximalAddFactorsCard f) :
+    Tendsto (fun n => f n / Real.log n) atTop atTop ↔ answer(sorry) :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/126.lean]: I think the quantification over `f` and `hf` should be inside the LHS of the iff

File: FormalConjectures/ErdosProblems/198.lean [hunk 2]
```diff
@@ -57,23 +57,24 @@ Answer "yes" according to remark on page 23 of:
...
 So the answer should be "no".
 
 This can be seen, as pointed out by Thomas Bloom [erdosproblems.com/198](https://www.erdosproblems.com/198),
 by an elementary argument.
 -/
 @[category research solved, AMS 5, AMS 11]
-theorem erdos_198 : ∃ A : ℕ →o ℕ,
-    IsSidon A ∧ (∀ Y, IsAPOfLength Y ⊤ → ((range A) ∩ Y).Nonempty) := by
+theorem erdos_198 : (∀ A : ℕ →o ℕ,
+    IsSidon A → (∀ Y, IsAPOfLength Y ⊤ → ((range A) ∩ Y).Nonempty)) ↔ answer(False) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/198.lean]: I think you're missing a negation here?

File: FormalConjectures/ErdosProblems/244.lean [hunk 3]
```diff
@@ -24,9 +24,8 @@ import FormalConjectures.Util.ProblemImports
 /-- Let $C > 1$. Does the set of integers of the form $p + \lfloor C^k \rfloor$,
 for some prime $p$ and $k\geq 0$, have density $>0$? -/
 @[category research open, AMS 11]
-theorem erdos_244 {C : ℝ} (hC : 1 < C) {α : ℝ}
-    (h : { p + ⌊C ^ k⌋₊ | (p) (k) (_ : p.Prime) }.HasDensity α) :
-    0 < α :=
+theorem erdos_244 {C : ℝ} (hC : 1 < C) :
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/244.lean]: I think the quantification over `C` should happen within the iff

File: FormalConjectures/ErdosProblems/143.lean [hunk 4]
```diff
@@ -40,7 +40,7 @@ $$
 -/
 @[category research open, AMS 11]
 theorem erdos_143.parts.i (A : Set ℝ) (h : WellSeparatedSet A):
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/143.lean]: I think the quantification over `A, h` should happen within the iff

File: FormalConjectures/ErdosProblems/247.lean [hunk 5]
```diff
@@ -39,7 +39,7 @@ transcendental?
 theorem erdos_247 (n : ℕ → ℕ)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/247.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/126.lean (hunk 1 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/126.lean]: Yes, good point, thanks!

File: FormalConjectures/ErdosProblems/258.lean [hunk 6]
```diff
@@ -29,7 +29,8 @@ irrational, where $d(n)$ is the number of divisors of $n$?
 theorem erdos_258
     (a : ℕ → ℕ) (ha : ∀ n, a n ≠ 0)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/258.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/267.lean [hunk 7]
```diff
@@ -30,7 +30,7 @@ $\sum_k \frac 1 {F_{n_k}}$ be irrational?
 theorem erdos_267 (n : ℕ → ℕ)
     (hn : StrictMono n) (c : ℚ) (hc : 1 < c)
     (hnc : ∀ k, c ≤ n (k+1) / n k) :
-    Irrational <| ∑' k, 1 / (Nat.fib <| n k) :=
+    Irrational (∑' k, 1 / (Nat.fib <| n k) ) ↔ answer(sorry) :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/267.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/267.lean [hunk 8]
```diff
@@ -42,7 +42,7 @@ $\sum_k \frac 1 {F_{n_k}}$ be irrational?
 theorem erdos_267.variants.generalisation_ratio_limit_to_infinity (n : ℕ → ℕ)
     (hn : StrictMono n)
     (hnc : Filter.Tendsto (fun k => (n (k+1) / k.succ : ℝ)) Filter.atTop Filter.atTop) :
-    Irrational <| ∑' k, 1 / (Nat.fib <| n k) :=
+    Irrational (∑' k, 1 / (Nat.fib <| n k)) ↔ answer(sorry) :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/267.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/392.lean [hunk 9]
```diff
@@ -40,7 +40,8 @@ theorem erdos_392 (A : ℕ → ℕ)
     (hA : ∀ n > 0, IsLeast
       { t + 1 | (t) (_ : ∃ a : Fin (t + 1) → ℕ, (n)! = ∏ i, a i ∧ Monotone a ∧ a t ≤ n ^ 2) }
       (A n)) :
-    (fun (n : ℕ) => (A n - n / 2 + n / (2 * Real.log n) : ℝ)) =o[atTop] fun n => n / Real.log n :=
+    ((fun (n : ℕ) => (A n - n / 2 + n / (2 * Real.log n) : ℝ)) =o[atTop] fun n => n / Real.log n) ↔
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/392.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/434.lean [hunk 10]
```diff
@@ -58,5 +58,5 @@ not representable as the sum of finitely many elements from $A$ (with repetition
 theorem erdos_434.parts.ii (n k : ℕ) (hn : 1 ≤ n) (hk : 1 ≤ k) (h : k ≤ n) :
     IsGreatest
       { Nat.NcardUnrepresentable S | (S : Set ℕ) (_ : S ⊆ Set.Icc 1 n) (_ : S.ncard = k) }
-      (Nat.NcardUnrepresentable <| Set.Icc (n - k + 1 : ℕ) n) :=
+      (Nat.NcardUnrepresentable <| Set.Icc (n - k + 1 : ℕ) n) ↔ answer(sorry) :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/434.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/477.lean [hunk 11]
```diff
@@ -28,8 +28,8 @@ Let $f: \mathbb{Z} \rightarrow \mathbb{Z}$ be a polynomial of degree at least $2
 Is there a set $A$ such that every $z \in \mathbb{Z}$ has exactly one representation as $z = a + f(n)$ for some $a \in A$ and $n \in \mathbb{Z}$?
 -/
 @[category research open, AMS 12]
-theorem erdos_477 (f : Polynomial ℤ) (hf₀ : 2 ≤ f.degree) : ∃ (A : Set ℤ),
-    ∀ z, ∃! a ∈ A ×ˢ Set.range f.eval, z = a.1 + a.2 := sorry
+theorem erdos_477 (f : Polynomial ℤ) (hf₀ : 2 ≤ f.degree) : (∃ (A : Set ℤ),
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/477.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/480.lean [hunk 12]
```diff
@@ -29,7 +29,7 @@ such that $|x_{m+n} - x_n| ≤ \frac 1 {\sqrt 5 n}$?
 @[category research solved, AMS 11]
 theorem erdos_480
     (x : ℕ → ℝ) (hx : ∀ n, x n ∈ Set.Icc 0 1) :
-    {(m, n) | (m) (n) (_ : m ≠ 0) (_ : |x (m + n) - x n| ≤ 1 / (√5 * n))}.Infinite := by
+    {(m, n) | (m) (n) (_ : m ≠ 0) (_ : |x (m + n) - x n| ≤ 1 / (√5 * n))}.Infinite ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/480.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/509.lean [hunk 13]
```diff
@@ -77,8 +77,8 @@ be covered by a set of closed discs the sum of whose radii is $≤ 2$?
 -/
 @[category research open, AMS 30]
 theorem erdos_509
-    (f : ℂ[X]) (hf : f.Monic) (hf' : f.natDegree ≠ 0) : ∃ (ι : Type),
-    Nonempty (BoundedDiscCover {z | ‖f.eval z‖ ≤ 1} 2 ι) := by
+    (f : ℂ[X]) (hf : f.Monic) (hf' : f.natDegree ≠ 0) : (∃ (ι : Type),
+    Nonempty (BoundedDiscCover {z | ‖f.eval z‖ ≤ 1} 2 ι)) ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/509.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/56.lean [hunk 14]
```diff
@@ -92,11 +92,11 @@ lemma weaklyDivisible_firstPrimesMultiples (N k : ℕ) (hN : 1 ≤ N) :
...
-which are relatively prime. An example is the set of all multiples of
-the first `k` primes. Is this the largest such set?
+Suppose $A \subseteq \{1,\dots,N\}$ is such that there are no $k+1$ elements of $A$ which are
+relatively prime. An example is the set of all multiples of the first $k$ primes.
+Is this the largest such set?
 -/
 @[category research solved, AMS 11]
 theorem erdos_56 (N : ℕ) (hN : 2 ≤ N)
-    (k : ℕ) : MaxWeaklyDivisible N k = (FirstPrimesMultiples N k).card := by
+    (k : ℕ) : (MaxWeaklyDivisible N k = (FirstPrimesMultiples N k).card) ↔ answer(False) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/56.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/672.lean [hunk 15]
```diff
@@ -21,17 +21,19 @@ import FormalConjectures.Util.ProblemImports
...
+/--
+Can the product of an arithmetic progression of positive integers of length ≥ 4 be a perfect power?
+-/
 @[category research open, AMS 11]
-theorem erdos_672
-    (k l : ℕ) (hk : 4 ≤ k) (hl : 1 < l)
-    (hk' : NeZero k := ⟨Nat.not_eq_zero_of_lt hk⟩) :
-    Erdos672With k l :=
+theorem erdos_672 :
+    (∀ᵉ (k) (l > 1), (hk : k ≥ 4) →
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/672.lean]:
```suggestion
    (∀ᵉ (k ≥ 4) (l > 1),
```

File: FormalConjectures/ErdosProblems/727.lean [hunk 16]
```diff
@@ -27,21 +27,17 @@ open scoped Nat
 Let $k ≥ 2$. Does $((n+k)!)^2∣(2n)!$ hold for infinitely many $n$?
 -/
 @[category research open, AMS 11]
-theorem erdos_727
-    (k : ℕ)
-    (hk : k > 1) :
-    Set.Infinite {n : ℕ | (Nat.factorial (n + k)) ^ 2 ∣ Nat.factorial (2 * n)} :=
+theorem erdos_727 (k : ℕ) (hk : 2 ≤ k) :
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/727.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/727.lean [hunk 17]
```diff
@@ -27,21 +27,17 @@ open scoped Nat
...
 /--
 It is open even for $k = 2$.
 Let $k = 2$. Does $((n+k)!)^2∣(2n)!$ hold for infinitely many n?
 -/
 @[category research open, AMS 11]
-theorem erdos_727_variants.k_2
-    (k : ℕ)
-    (hk : k = 2) :
-    Set.Infinite {n : ℕ | (Nat.factorial (n + k)) ^ 2 ∣ Nat.factorial (2 * n)} :=
+theorem erdos_727_variants.k_2 (k : ℕ) (hk : k = 2) :
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/727.lean]: I think we can also consider removing the quantification here (e.g. by using `letI` if we want to keep the `k` in)

File: FormalConjectures/ErdosProblems/786.lean [hunk 18]
```diff
@@ -41,8 +41,7 @@ $r = s$?
 -/
 @[category research open, AMS 11]
 theorem erdos_786.parts.i (ε : ℝ) (hε : 0 < ε ∧ ε ≤ 1) :
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/786.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/727.lean [hunk 19]
```diff
@@ -50,20 +46,15 @@ Balakran proved this holds for $k = 1$.
 Let $k = 1$. Does $((n+k)!)^2∣(2n)!$ for infinitely many $n$?
 -/
 @[category research solved, AMS 11]
-theorem erdos_727_variants.k_1
-    (k : ℕ)
-    (hk : k = 1) :
-    Set.Infinite {n : ℕ | (n + k)! ^ 2 ∣ (2 * n)!} :=
+theorem erdos_727_variants.k_1 (k : ℕ) (hk : k = 1) :
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/727.lean]: Same as above:)

File: FormalConjectures/ErdosProblems/846.lean [hunk 20]
```diff
@@ -60,5 +60,5 @@ plane is weakly non-trilinar.
 -/
 @[category research open, AMS 11]
 theorem erdos_846 (A : Set ℝ²) (ε : ℝ) (hε : 0 < ε) (hA : NonTrilinearFor A ε)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/846.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/868.lean [hunk 21]
```diff
@@ -74,7 +74,7 @@ must $A$ contain a minimal additive basis of order $2$? -/
 @[category research open, AMS 5, AMS 11]
 theorem erdos_868.parts.i {A : Set ℕ} (hA₁ : IsAddBasis A 2)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/868.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/868.lean [hunk 22]
```diff
@@ -84,14 +84,14 @@ basis of order $2$? -/
 @[category research open, AMS 5, AMS 11]
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/868.lean:84]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/868.lean [hunk 23]
```diff
@@ -84,14 +84,14 @@ basis of order $2$? -/
...
 theorem erdos_868.parts.ii {A : Set ℕ} (hA₁ : IsAddBasis A 2) {ε : ℝ} (hε : 0 < ε)
     (hA₂ : ∀ᶠ (n : ℕ) in atTop, ε * Real.log n < ncard_add_repr A 2 n) :
-    ∃ B ⊆ A, IsAddBasis B 2 ∧ ∀ b ∈ B, ¬IsAddBasis (B \ {b}) 2 := sorry
+    (∃ B ⊆ A, IsAddBasis B 2 ∧ ∀ b ∈ B, ¬IsAddBasis (B \ {b}) 2) ↔ answer(sorry) := sorry
 
 /-- Erdős and Nathanson proved that this is true if $f(n) > (\log\frac{4}{3})^{-1}\log n$ for
 all large $n$. -/
 @[category research solved, AMS 5, AMS 11]
 theorem erdos_868.variants.fixed_ε {A : Set ℕ} (hA₁ : IsAddBasis A 2)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/868.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/873.lean [hunk 24]
```diff
@@ -31,6 +31,6 @@ private noncomputable abbrev F (a : ℕ → ℕ) (X : ℝ) (k : ℕ) : ℕ∞ :=
 $[a_i,a_{i+1}, … ,a_{i+k−1}] < X$, where the left-hand side is the least common multiple.
 Is it true that, for every $ϵ > 0$, there exists some $k$ such that $F(A,X,k) < X^ϵ$?-/
 @[category research open, AMS 11]
-theorem erdos_873 (a : ℕ → ℕ) (hapos : 0 < a 0) (ha : StrictMono a) (ε : ℝ) (hε : 0 < ε):
-    ∃ k, ∀ X > 0, F a X k < (X^ε).toEReal :=
+theorem erdos_873 (a : ℕ → ℕ) (hapos : 0 < a 0) (ha : StrictMono a) : (∀ᵉ (ε > (0 : ℝ)),
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/873.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/897.lean [hunk 25]
```diff
@@ -33,7 +33,8 @@ theorem erdos_897.parts.i
     (f : ℕ → ℝ)
     (hf : ∀ᵉ (a > 0) (b > 0), a.Coprime b → f (a * b) = f a + f b)
     (hf' : (Filter.atTop ⊓ Filter.principal {(p, k) : ℕ × ℕ | p.Prime}).limsup (fun (p, k) => (f (p^k) / (p^k : ℝ).log : EReal)) = ⊤) :
-    Filter.atTop.limsup (fun (n : ℕ) => ((f (n+1) - f n) / (n : ℝ).log : EReal)) = ⊤ := by
+    Filter.atTop.limsup (fun (n : ℕ) => ((f (n+1) - f n) / (n : ℝ).log : EReal)) = ⊤ ↔
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/897.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/897.lean [hunk 26]
```diff
@@ -47,7 +48,7 @@ theorem erdos_897.parts.ii
     (hf : ∀ᵉ (a > 0) (b > 0), a.Coprime b → f (a * b) = f a + f b)
     (hf' : (Filter.atTop ⊓ Filter.principal {(p, k) : ℕ × ℕ | p.Prime}).limsup
       (fun (p, k) => (f (p^k) / (p^k : ℝ).log : EReal)) = ⊤) :
-    Filter.atTop.limsup (fun (n : ℕ) => (f (n+1) / f n : EReal)) = ⊤ := by
+    Filter.atTop.limsup (fun (n : ℕ) => (f (n+1) / f n : EReal)) = ⊤ ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/897.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/897.lean [hunk 27]
```diff
@@ -75,7 +76,7 @@ theorem erdos_897.variants.parts.i
     (hf : ∀ᵉ (a > 0) (b > 0), a.Coprime b → f (a * b) = f a + f b)
     (hf' : (Filter.atTop ⊓ Filter.principal {(p, k) : ℕ × ℕ | p.Prime}).limsup (fun (p, k) => (f (p^k) / (p^k : ℝ).log : EReal)) = ⊤)
     (hf'' : (∀ k p, p.Prime → f (p^k) = f p) ∨ (∀ (k p : ℕ), p.Prime → f (p^k) = k*f p)) :
-    Filter.atTop.limsup (fun (n : ℕ) => ((f (n+1) - f n) / (n : ℝ).log : EReal)) = ⊤ := by
+    Filter.atTop.limsup (fun (n : ℕ) => ((f (n+1) - f n) / (n : ℝ).log : EReal)) = ⊤ ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/897.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/897.lean [hunk 28]
```diff
@@ -90,5 +91,5 @@ theorem erdos_897.variants.parts.ii
     (hf : ∀ᵉ (a > 0) (b > 0), a.Coprime b → f (a * b) = f a + f b)
     (hf' : (Filter.atTop ⊓ Filter.principal {(p, k) : ℕ × ℕ | p.Prime}).limsup (fun (p, k) => (f (p^k) / (p^k : ℝ).log : EReal)) = ⊤)
     (hf'' : (∀ k p, p.Prime → f (p^k) = f p) ∨ (∀ (k p : ℕ), p.Prime → f (p^k) = k*f p)) :
-    Filter.atTop.limsup (fun (n : ℕ) => (f (n+1) / f n : EReal)) = ⊤ := by
+    Filter.atTop.limsup (fun (n : ℕ) => (f (n+1) / f n : EReal)) = ⊤ ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/897.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/899.lean [hunk 29]
```diff
@@ -39,5 +39,6 @@ $$
 @[category research solved, AMS 5]
 theorem erdos_899 (A : Set ℕ) (h_inf : A.Infinite)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/899.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/931.lean [hunk 30]
```diff
@@ -33,7 +33,7 @@ have the same prime factors?
 theorem erdos_931 (k₁ k₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂) :
     { (n₁, n₂) | n₁ + k₁ ≤ n₂ ∧
       (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
-      (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors }.Finite :=
+      (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors }.Finite ↔ answer(sorry) :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/931.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/931.lean [hunk 31]
```diff
@@ -45,7 +45,7 @@ It is an open question whether this is true when allowing a finite number of cou
 theorem erdos_931.variants.additional_condition (k₁ k₂ : ℕ) (h₁ : k₂ ≤ k₁) (h₂ : 3 ≤ k₂):
     {(n₁, n₂) | n₁ + k₁ ≤ n₂ ∧ n₂ ≤ 2 * (n₁ + k₁) ∧
       (∏ i ∈ Finset.Icc 1 k₁, (n₁ + i)).primeFactors =
-      (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors}.Finite :=
+      (∏ j ∈ Finset.Icc 1 k₂, (n₂ + j)).primeFactors}.Finite ↔ answer(sorry) :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/931.lean]: I think the quantification needs to happen within the iff

File: FormalConjectures/ErdosProblems/672.lean (hunk 15 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/672.lean]: The issue here is that then I can't refer to `hk` in the `letI` statement

File: FormalConjectures/ErdosProblems/198.lean (hunk 2 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/198.lean]: Thanks!

File: FormalConjectures/ErdosProblems/229.lean [hunk 32]
```diff
@@ -28,14 +28,18 @@ exists some $k_n \geq 0$ such that
...
 $$
--/
+
+Solved in the affirmative by Barth and Schneider [BaSc72].
+
+[BaSc72] Barth, K. F. and Schneider, W. J., _On a problem of Erdős concerning the zeros of_
+_the derivatives of an entire function_. Proc. Amer. Math. Soc. (1972), 229--232.-/
 @[category research solved, AMS 30]
 theorem erdos_229
     (S : ℕ → Set ℂ)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/229.lean]: This one should have the quantifiers in the iff

File: FormalConjectures/ErdosProblems/229.lean [hunk 33]
```diff
@@ -28,14 +28,18 @@ exists some $k_n \geq 0$ such that
...
     (h : ∀ (n), derivedSet (S n) = ∅) :
     letI := Polynomial.algebraPi ℂ ℂ ℂ
-    ∃ (f : ℂ → ℂ) (k : ℕ → ℕ), Transcendental (Polynomial ℂ) f ∧ Differentiable ℂ f ∧ ∀ (n) (z) (_ : z ∈ S n),
-      iteratedDeriv (k n) f z = 0 :=
+    (∃ (f : ℂ → ℂ), Transcendental (Polynomial ℂ) f ∧ Differentiable ℂ f ∧ ∀ᵉ (n ≥ 1),
+      ∃ (k : ℕ → ℕ), ∀ᵉ (z ∈ S n), iteratedDeriv (k n) f z = 0) ↔ answer(True) :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/229.lean]: Since you're allowing `k` to depend on `n`, it can just have type `Nat`.

File: FormalConjectures/ErdosProblems/229.lean [hunk 34]
```diff
@@ -28,14 +28,18 @@ exists some $k_n \geq 0$ such that
...
+[BaSc72] Barth, K. F. and Schneider, W. J., _On a problem of Erdős concerning the zeros of_
+_the derivatives of an entire function_. Proc. Amer. Math. Soc. (1972), 229--232.-/
 @[category research solved, AMS 30]
 theorem erdos_229
     (S : ℕ → Set ℂ)
     (h : ∀ (n), derivedSet (S n) = ∅) :
     letI := Polynomial.algebraPi ℂ ℂ ℂ
-    ∃ (f : ℂ → ℂ) (k : ℕ → ℕ), Transcendental (Polynomial ℂ) f ∧ Differentiable ℂ f ∧ ∀ (n) (z) (_ : z ∈ S n),
-      iteratedDeriv (k n) f z = 0 :=
+    (∃ (f : ℂ → ℂ), Transcendental (Polynomial ℂ) f ∧ Differentiable ℂ f ∧ ∀ᵉ (n ≥ 1),
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/229.lean]:
```suggestion
    (∃ (f : ℂ → ℂ), Transcendental (Polynomial ℂ) f ∧ Differentiable ℂ f ∧ ∀ n ≥ 1,
```

File: FormalConjectures/ErdosProblems/229.lean [hunk 35]
```diff
@@ -28,14 +28,18 @@ exists some $k_n \geq 0$ such that
...
+      ∃ (k : ℕ → ℕ), ∀ᵉ (z ∈ S n), iteratedDeriv (k n) f z = 0) ↔ answer(True) :=
   sorry
 
 /--
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/229.lean:44]: Maybe worth removing the line below "Solved in the affirmative by Barth and Schneider [BaSc72], who proved the following." since that's now in the Erdos problem docstring.

File: FormalConjectures/ErdosProblems/244.lean [hunk 36]
```diff
@@ -24,9 +24,8 @@ import FormalConjectures.Util.ProblemImports
 /-- Let $C > 1$. Does the set of integers of the form $p + \lfloor C^k \rfloor$,
 for some prime $p$ and $k\geq 0$, have density $>0$? -/
 @[category research open, AMS 11]
-theorem erdos_244 {C : ℝ} (hC : 1 < C) {α : ℝ}
-    (h : { p + ⌊C ^ k⌋₊ | (p) (k) (_ : p.Prime) }.HasDensity α) :
-    0 < α :=
+theorem erdos_244 : (∀ᵉ (C > 1), (∃ α > 0, { p + ⌊C ^ k⌋₊ | (p) (k) (_ : p.Prime) }.HasDensity α)) ↔
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/244.lean]: Since this is making a non-trivial change to the formal statement, I think it's worth flagging this in the PR description and linking to the corresponding issue that @b-mehta opened.

File: FormalConjectures/ErdosProblems/245.lean [hunk 37]
```diff
@@ -35,11 +35,15 @@ Is it true that
 $$
 \limsup_{N\to\infty}\frac{|(A + A)\cap \{1, ..., N\}|}{|A \cap \{1, ..., N\}|} \geq 3?
 $$
+
+The answer is yes, proved by Freiman [Fr73].
+
+[Fr73] Fre\u{\i}man, G. A., _Foundations of a structural theory of set addition_. (1973), vii+108.
 -/
 @[category research solved, AMS 5, AMS 11]
 theorem erdos_245 (A : Set ℕ) (h_inf : A.Infinite)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/245.lean]: The quantifiers should be inside the LHS of the iff

File: FormalConjectures/ErdosProblems/250.lean [hunk 38]
```diff
@@ -30,13 +30,13 @@ $$
...
 irrational? Here $\sigma(n)$ is the sum of divisors function.
 
-Solved by Nesterenko in [Ne96]
+The answer is yes, as shown by Nesterenko [Ne96].
 
 [Ne96] Nesterenko, Yu V., _Modular functions and transcendence questions_,
 Mat. Sb. 187 *9* (1996), 1319--1348.
 -/
 @[category research solved, AMS 11]
 theorem erdos_250 (x : ℝ)
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/250.lean]: The quantifiers should be inside the LHS of the iff

File: FormalConjectures/ErdosProblems/257.lean [hunk 39]
```diff
@@ -30,7 +30,7 @@ irrational?
 -/
 @[category research open, AMS 11]
 theorem erdos_257 (A : Set ℕ) (h : A.Infinite) :
-    Irrational <| ∑' n : A, (1 : ℝ) / (2 ^ n.1 - 1) :=
+    Irrational (∑' n : A, (1 : ℝ) / (2 ^ n.1 - 1)) ↔ answer(sorry) :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/257.lean]: The quantifiers should be inside the LHS of the iff

File: FormalConjectures/ErdosProblems/168.lean [hunk 40]
```diff
@@ -68,19 +68,19 @@ lemma F_eq_card (N : ℕ) (S : Finset ℕ) (hS : S ⊆ Finset.Icc 1 N)
     F N = S.card := by
   sorry
 
-/--What is the limit `F(N)/N` as `N → ∞`? -/
+/--What is the limit $F(N)/N$ as $N \to \infty$? -/
```
Comment (b-mehta) [inline FormalConjectures/ErdosProblems/168.lean]:
```suggestion
/-- What is the limit $F(N)/N$ as $N \to \infty$? -/
```
and similarly below (since you're changing these anyway!)

File: FormalConjectures/ErdosProblems/480.lean [hunk 41]
```diff
@@ -27,8 +27,9 @@ such that $|x_{m+n} - x_n| ≤ \frac 1 {\sqrt 5 n}$?
 -/
 @[category research solved, AMS 11]
 theorem erdos_480
-    (x : ℕ → ℝ) (hx : ∀ n, x n ∈ Set.Icc 0 1) :
-    {(m, n) | (m) (n) (_ : m ≠ 0) (_ : |x (m + n) - x n| ≤ 1 / (√5 * n))}.Infinite := by
+    (x : ℕ → ℝ) (hx : ∀ n, x n ∈ Set.Icc 0 1) : (∀ (x : ℕ → ℝ), (∀ n, x n ∈ Set.Icc 0 1) →
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/480.lean]: I think you've accidentally duplicated some variables here

File: FormalConjectures/ErdosProblems/786.lean [hunk 42]
```diff
@@ -40,9 +40,8 @@ such that $a_1\cdots a_r = b_1\cdots b_s$ with $a_i, b_j\in A$ can only hold whe
 $r = s$?
 -/
 @[category research open, AMS 11]
-theorem erdos_786.parts.i (ε : ℝ) (hε : 0 < ε ∧ ε ≤ 1) :
-    ∃ (A : Set ℕ) (δ : ℝ), 0 ∉ A ∧ 1 - ε < δ ∧ A.HasDensity δ ∧
-      A.IsMulCardSet :=
+theorem erdos_786.parts.i : (∀ᵉ (ε > 0), ε ≤ 1 →
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/786.lean]:
```suggestion
theorem erdos_786.parts.i : (∀ ε > 0, ε ≤ 1 →
```

**Comment by Paul-Lez** [comment]
Nice work (and thanks for taking on this tedious task:)) ! I think we're almost there - I'll just let other people take a look to make sure I haven't missed anything.

File: FormalConjectures/ErdosProblems/786.lean (hunk 42 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/786.lean]: perhaps even with a space between `∀` and `ε`

Comment (Paul-Lez) [reply FormalConjectures/ErdosProblems/786.lean]: I've updated the suggestion accordingly:)

File: FormalConjectures/ErdosProblems/168.lean (hunk 40 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/168.lean]: Thanks!

File: FormalConjectures/ErdosProblems/229.lean (hunk 33 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/229.lean]: Good point, thanks!

File: FormalConjectures/ErdosProblems/480.lean (hunk 41 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/480.lean]: Thanks!

**Comment by mo271** [comment]
I looked through all of them and didn't find any new missed quantifiers.

File: FormalConjectures/ErdosProblems/786.lean (hunk 42 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/786.lean]: Also fixed some more unecessary instances of `∀ᵉ`

File: FormalConjectures/ErdosProblems/244.lean (hunk 36 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/244.lean]: Changed this to HasPosDensity now also!

File: FormalConjectures/ErdosProblems/229.lean [hunk 43]
```diff
@@ -28,25 +28,23 @@ exists some $k_n \geq 0$ such that
...
+_the derivatives of an entire function_. Proc. Amer. Math. Soc. (1972), 229--232.-/
 @[category research solved, AMS 30]
-theorem erdos_229
-    (S : ℕ → Set ℂ)
-    (h : ∀ (n), derivedSet (S n) = ∅) :
+theorem erdos_229 :
     letI := Polynomial.algebraPi ℂ ℂ ℂ
-    ∃ (f : ℂ → ℂ) (k : ℕ → ℕ), Transcendental (Polynomial ℂ) f ∧ Differentiable ℂ f ∧ ∀ (n) (z) (_ : z ∈ S n),
-      iteratedDeriv (k n) f z = 0 :=
+    (∀ (S : ℕ → Set ℂ), (∀ (n), derivedSet (S n) = ∅) →
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/229.lean]:
```suggestion
    (∀ (S : ℕ → Set ℂ), (∀ n, derivedSet (S n) = ∅) →
```
This was already there before, but we might as well remove it!

File: FormalConjectures/ErdosProblems/244.lean [hunk 44]
```diff
@@ -24,9 +24,8 @@ import FormalConjectures.Util.ProblemImports
 /-- Let $C > 1$. Does the set of integers of the form $p + \lfloor C^k \rfloor$,
 for some prime $p$ and $k\geq 0$, have density $>0$? -/
 @[category research open, AMS 11]
-theorem erdos_244 {C : ℝ} (hC : 1 < C) {α : ℝ}
-    (h : { p + ⌊C ^ k⌋₊ | (p) (k) (_ : p.Prime) }.HasDensity α) :
-    0 < α :=
+theorem erdos_244 : (∀ C > 1, { p + ⌊C ^ k⌋₊ | (p) (k) (_ : p.Prime) }.HasPosDensity) ↔
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/244.lean]:
```suggestion
theorem erdos_244 : (∀ C > (1 : ℝ), { p + ⌊C ^ k⌋₊ | (p) (k) (_ : p.Prime) }.HasPosDensity) ↔
```
(Otherwise `C` has type `Nat`)

File: FormalConjectures/ErdosProblems/250.lean [hunk 45]
```diff
@@ -30,13 +30,12 @@ $$
...
+The answer is yes, as shown by Nesterenko [Ne96].
 
 [Ne96] Nesterenko, Yu V., _Modular functions and transcendence questions_,
 Mat. Sb. 187 *9* (1996), 1319--1348.
 -/
 @[category research solved, AMS 11]
-theorem erdos_250 (x : ℝ)
-    (h : HasSum (fun (n : ℕ) => σ 1 n / (2 : ℝ) ^ n) x) :
-    Irrational x :=
+theorem erdos_250  : (∀ x,  HasSum (fun (n : ℕ) => σ 1 n / (2 : ℝ) ^ n) x → Irrational x) ↔
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/250.lean]:
```suggestion
theorem erdos_250  : (∀ x, HasSum (fun (n : ℕ) => σ 1 n / (2 : ℝ) ^ n) x → Irrational x) ↔
```

File: FormalConjectures/ErdosProblems/258.lean [hunk 46]
```diff
@@ -22,28 +22,27 @@ import FormalConjectures.Util.ProblemImports
...
 Is $\sum_n \frac{d(n)}{(a_1 ... a_n)}$ irrational, where $d(n)$ is the number of divisors of $n$?
 
 Solution: True (proved by Erdős and Straus, see Erdős Problems website).
 -/
 @[category research solved, AMS 11]
-theorem erdos_258.variants.Monotone
-    (a : ℕ → ℤ) (ha : ∀ n, a n ≠ 0) (ha : Monotone a)
-    (ha : Filter.Tendsto a Filter.atTop Filter.atTop) :
-    Irrational (∑' (n : ℕ), ((n+1).divisors.card / ∏ i ∈ Finset.Icc 1 n, a i)) := by
+theorem erdos_258.variants.Monotone : (∀ (a : ℕ → ℤ), ∀ n, a n ≠ 0 → Monotone a →
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/258.lean]:
```suggestion
theorem erdos_258.variants.Monotone : (∀ (a : ℕ → ℤ), (∀ n, a n ≠ 0) → Monotone a →
```

**Review by Paul-Lez — APPROVED** [review]
I think we're good!
